US06391887B1
4-Amino-8-(trifluoromethyl)-2,3,3a,9b-tetrahydro-1H-cyclopenta[c]quinoline
Analogously to Example 4, 8-(trifluoromethyl)-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione (93 mg, 0.34 mmol) in 7N methanolic ammonia solution (20 ml) is reacted to form 66 mg (76%) of product.

reactant | 8-(trifluoromethyl)-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione | 0.34 mmol, 93 mg | FC(C1=CC=2C3C(C(NC2C=C1)=S)CCC3)(F)F | C13H12F3NS
reactant | ammonia | 7N, 20 ml | N | H3N
product | 4-Amino-8-(trifluoromethyl)-2,3,3a,9b-tetrahydro-1H-cyclopenta[c]quinoline | 66 mg, 76% | NC1=NC=2C=CC(=CC2C2C1CCC2)C(F)(F)F | C13H13F3N2
